US08383596B2
N-Boc-3-azetidinone (1.0 g, 5.84 mmol) was treated with ethanolamine following Procedure 1-Method A to yield N-(N-Boc-azetidin-3-yl)-2-amino-ethanol (0.75 g, 3.46 mmol, 62.3% yield): MS m/e [M+H]+ calcd 217.1, found 217.2.

reactant | N-Boc-3-azetidinone | 5.84 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1CC(C1)=O | C8H13NO3
reactant | ethanolamine | C(O)CN | C2H7NO
product | N-(N-Boc-azetidin-3-yl)-2-amino-ethanol | 3.46 mmol, 0.75 g, 62.3% yield | C(=O)(OC(C)(C)C)N1CC(C1)NCCO | C10H20N2O3
